US06486333B1
Synthesis of N-octadecanoyl-N′,N′-dimethyl-1,3-diaminopropane
A 300 g (1.05 mol) portion of octadecanoic acid was put into a flask and melted by stirring at 180° C. in an atmosphere of nitrogen. To this was added dropwise 113.1 g (1.11 mol) of N,N-dimethyl-1,3-diaminopropane spending 3 hours, thereby effecting the reaction while evaporating the generated water. After completion of the dropwise addition, this was further stirred at 180° C. for 4 hours in an atmosphere of nitrogen. Thereafter, the unreacted material amine remained in the reaction mixture was evaporated under a reduced pressure to obtain the title compound as a light brown waxy solid (melting point 64-67° C.).

reactant | octadecanoic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | N,N-dimethyl-1,3-diaminopropane | 1.11 mol, 113.1 g | CN(CCCN)C | C5H14N2
product | N-octadecanoyl-N′,N′-dimethyl-1,3-diaminopropane | C(CCCCCCCCCCCCCCCCC)(=O)NCCCN(C)C | C23H48N2O
